US08003806B2
3-{5-[(4-Nitrobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid
A solution of ethyl 3-{5-[(4-nitrobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate (60 mg, 131 μmol) in a mixture of acetonitrile (10 mL) and hydrochloric acid (20 mL of a 5N solution) was stirred at room temperature for 72 hours. The resulting precipitate was collected by filtration, and air-dried to afford the title compound, [LCMS (Method A, Mobile Phase II) RT=3.84 min, MH+ 431].

reactant | ethyl 3-{5-[(4-nitrobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate | 131 μmol, 60 mg | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC3=C(N(C=N3)C(CC(=O)OCC)C3=CC=CC=C3)C=C2)C=C1 | C25H22N4O5
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | hydrochloric acid | Cl | ClH
product | 3-{5-[(4-Nitrobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC3=C(N(C=N3)C(CC(=O)O)C3=CC=CC=C3)C=C2)C=C1 | C23H18N4O5
